US07595325B2
1-[5-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-3-yl]-3-(4-chloro-2-methyl-phenyl)-urea
4-Chloro-1-isocyanato-2-methyl-benzene (93.3 mg, 0.56 mmol) was added to a solution of (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(5-amino-pyridin-3-yl)-methanone (150 mg, 0.51 mmol) in pyridine (5 mL). The mixture was heated to 45° C. for 12 h. The reaction mixture was concentrated in vacuo and the resulting yellow solid was triturated with CH2Cl2, filtered, and washed with CH2Cl2. Purification by flash column chromatography [(10% NH4OH/MeOH)/ethyl acetate 2:98] afforded the title compound as a white solid (197 mg, 83%). MS: 464.1 (MH+); HPLC Rf: 5.55 min. (HPLC method 4).

reactant | 4-Chloro-1-isocyanato-2-methyl-benzene | 0.56 mmol, 93.3 mg | ClC1=CC(=C(C=C1)N=C=O)C | C8H6ClNO
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(5-amino-pyridin-3-yl)-methanone | 0.51 mmol, 150 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=NC=C(C2)N)C(C)C | C15H16N6O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1-[5-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-pyridin-3-yl]-3-(4-chloro-2-methyl-phenyl)-urea | 197 mg, 83% | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=NC2)NC(=O)NC2=C(C=C(C=C2)Cl)C)C(C)C | C23H22ClN7O2
